US08445507B2
A solution of 2,4-difluoro-benzoylchloride D in a solution of methylamine and tetrahydrofuran (THF) is allowed to react to produce 2,4-difluoro-N-methylbenzamide M (quantitative yield). The 2,4-difluoro-N-methylbenzamide M is mixed with in a solution of acetonitrile and 4-methoxy-benzenemethanamine and heated in a microwave for 20 minutes at 190° C. to produce 2-fluoro-4-(4-methoxybenzylamino)-N-methylbenzamide S (yield of 40%). The 2-fluoro-4-(4-methoxybenzylamino)-N-methylbenzamide S is reacted in a solution of dichloromethane and trifluoroacetic acid to produce 2-fluoro-4-amino-N-methylbenzamide T (yield greater than 95%). The 2-fluoro-4-amino-N-methylbenzamide T is reacted with a solution of sodium cyanide and cyclobutanone to produce 4-(1-cyanocyclobutylamino)-2-fluoro-N-methylbenzamide B.

reactant | 2,4-difluoro-benzoylchloride | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,4-difluoro-N-methylbenzamide | quantitative yield | FC1=C(C(=O)NC)C=CC(=C1)F | C8H7F2NO
